US07943776B2
N-cyclopropyl-4-methyl-3-{[4-(pyrimidin-2-ylmethoxy)benzoyl]amino}benzamide
The title compound was prepared from 2-pyrimidinemethanol and N-cyclopropyl-3-[(4-hydroxybenzoyl)amino]-4-methylbenzamide according to the method used to prepared Example 8, to give the title compound as a solid (149 mg, 58%); NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.67 (m, 2H), 2.24 (s, 3H), 2.84 (m, 1H), 5.37 (s, 2H), 7.09 (d, 2H), 7.31 (d, 1H), 7.47 (m, 1H), 7.61 (m, 1H), 7.78 (d, 1H), 7.93 (d, 2H), 8.35 (m, 1H), 8.83 (m, 2H), 9.80 (s, 1H); Mass Spectrum: M+H+ 403.

reactant | 2-pyrimidinemethanol | N1=C(N=CC=C1)CO | C5H6N2O
reactant | N-cyclopropyl-3-[(4-hydroxybenzoyl)amino]-4-methylbenzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)O)=O)=O | C18H18N2O3
product | N-cyclopropyl-4-methyl-3-{[4-(pyrimidin-2-ylmethoxy)benzoyl]amino}benzamide | 149 mg, 58% | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)OCC1=NC=CC=N1)=O)=O | C23H22N4O3
